US07750002B2
Amine preparation: To a solution of 2-picoline (333 mg) in dry THF (5 mL) at −78° C. was added nBuLi (2.5M solution in hexanes, 1.50 mL). The reaction mixture was warmed to room temperature over 30 min and then cooled to −78° C. 1-BOC-4-piperidone (713 mg) was then added, and the reaction mixture was raised to 0° C. over 20 min. The reaction mixture was stirred overnight and then quenched with water. The organics were extracted into ethyl acetate, dried (MgSO4), filtered and concentrated in vacuo to give crude product. The residue was purified using flash chromatography to yield 4-hydroxy-4-pyridin-2-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester (290 mg). Treatment of this compound with HCl in DCM/MeOH yielded the desired amine, which was isolated as the hydrochloride salt.

reactant | 2-picoline | 333 mg | N1=C(C=CC=C1)C | C6H7N
reactant | nBuLi | 2.5M, 1.50 mL | [Li]CCCC
reactant | 1-BOC-4-piperidone | 713 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-4-pyridin-2-ylmethyl-piperidine-1-carboxylic acid tert-butyl ester | 290 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=NC=CC=C1)O | C16H24N2O3
